Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Tetracycline / Grapefruit / Amoxicillin / Tegaderm 
/ diazepam
 
Attending: ___.
 
Chief Complaint:
HA, abd pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ presented with HA and abd pain. 
Her abd pain began after dinner on ___ dull, ___, without
radiation.  + nausea/diarrhea.  Developed fever to 101 -> to ED
for eval.  In the ED, WBC 17.3 and CT with small amount of
transverse colon thickening.  Pt treated with 
cipro/metronidazole
and admitted for further care.

On admission to the medical service, she reports marked
improvement, with abd pain ___, headache ___ and resolution of
her nausea.  Her last diarrhea/vomiting were in the ED.
 
Past Medical History:
Severe idiopathic axonal sensorimotor polyneuropathy with 
symptoms beginning in the late ___ or early ___. Symptoms began 
with weakness and sensory loss in the legs proximally. Symptoms 
have been responsive to plasmapheresis approximately yearly. As 
noted above, she is wheelchair bound.
Vitamin B12 deficiency
History of repeated partial small-bowel obstruction; requires 
low residue diet
Diabetes
Hypertension
GERD
Depression
Diverticulosis
Coronary vasospasm
Status post C-section x 2
Status post hysterectomy for leiomyomata
Left breast lumpectomy
Status post bilateral knee replacements
History of abdominal hematoma due to subcutaneous heparin
 
Social History:
___
Family History:
No family history of neurologic disease other than a brother who 
is ___ with recent symptoms of dementia. Mother and brother had 
diabetes.  Mother had liver, cervical and colon cancer.  Father 
had lung cancer.  Mother had coronary artery disease as well.
 
Physical Exam:
Discharge exam:
===============
VS: T 98.2 PO     BP 115 / 74     HR 57     RR 18   pOx 95% RA   
      
GENERAL:  NAD
Head:  NC/AT
Eyes: anicteric sclera
Ears/Nose/Mouth/Throat:  MMM, no OP lesions appreciated, no 
frontal or maxillary sinus tenderness to palpation, grossly 
normal hearing
Neck:  normal aROM
Resp:  decreased breath sounds in b/l lung bases (shallow depth 
of inspiration), otherwise breath sounds are clear and she has 
normal WOB at rest and with conversation 
CV:  RR, normal S1S2, +systolic murmur (___) heard best over 
RUSB
GI:  obese, soft, NT/ND, bowel sounds present
Skin:  No rashes or lesions noted
Extremities:  No pitting edema
Neuro:  awake, alert, conversant with clear speech, moving all 
4s with no difficulty and with normal coordination and no 
tremor/asterixis
Psych: calm, cooperative, pleasant
 
Pertinent Results:
ADMISSION LABS:
================

___ 11:35AM BLOOD WBC-17.3* RBC-4.92 Hgb-15.3 Hct-46.3* 
MCV-94 MCH-31.1 MCHC-33.0 RDW-14.6 RDWSD-48.7* Plt ___
___ 11:35AM BLOOD Neuts-92.0* Lymphs-3.6* Monos-3.6* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-15.91* AbsLymp-0.62* 
AbsMono-0.62 AbsEos-0.02* AbsBaso-0.03
___ 11:35AM BLOOD ___ PTT-21.5* ___
___ 07:20AM BLOOD Glucose-70 UreaN-18 Creat-1.0 Na-144 
K-4.0 Cl-102 HCO3-28 AnGap-14
___ 07:20AM BLOOD Calcium-9.0 Phos-4.1 Mg-1.9
___ 01:14PM BLOOD Lactate-1.5
.
.
MICRO:
========
-Bld cx ___ growing Group B strep
___ 11:14 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      BETA STREPTOCOCCUS GROUP B.    FINAL SENSITIVITIES. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             BETA STREPTOCOCCUS GROUP B
                             |   
CEFTRIAXONE-----------<=0.12 S
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.12 S
PENICILLIN G----------  0.12 S
VANCOMYCIN------------   0.5 S

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___. ___ ON ___ AT 
0130. 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 

-Repeat cx on ___ and ___ NGTD

-U/A was not suggestive of inflammation or infection;
corresponding UCx grew E. coli with resistance to Ampicillin,
Amp+Sulbactam, Cipro, and TMP/SMX
.
.
IMAGING:
=========
___ CXR:
"1. Mild pulmonary vascular congestion. 
2. No focal consolidations or pleural abnormality."

___ CT abd/pelvis: 
"1. Diverticulosis without evidence of diverticulitis.  No
evidence for colitis.
2. No gastrointestinal obstruction."
.
.
DISCHARGE LABS: (last labs prior to discharge)
===============
___ 10:55AM BLOOD WBC-6.5 RBC-4.37 Hgb-13.3 Hct-41.1 MCV-94 
MCH-30.4 MCHC-32.4 RDW-13.6 RDWSD-47.7* Plt ___
___ 10:55AM BLOOD UreaN-13 Creat-1.0 Na-141 K-4.1 Cl-101 
HCO3-29 AnGap-11
 
Brief Hospital Course:
# Fever, abdominal pain, nausea and diarrhea x1 day
Pt with abdominal pain, nausea, and diarrhea prior to admission. 
 She had a leukocytosis but CT abd/pelvis showed no acute 
pathology.  She had no evidence for abscess or obstruction.  She 
received antibiotics in the ED for possible transverse colitis 
(on the preliminary radiology read), with marked improvement by 
the time she reached the medical floor. She was treated with 
ciprofloxacin/metronidazole through ___. Her abd pain resolved 
fully and she was able to transition to her PO diet without an 
issue. 

Unclear etiology. Possibly she had a food-borne illness or SBO 
that then resolved. No stool studies could be sent because after 
arrival on floor she had no BM. 
.
.

# Group B strep bacteremia w/ sepsis - Her blood culture x 1 
from admission showed Group B strep. Initially was given dose of 
vancomycin on ___, but transitioned to CTX once GBS speciated. 
ID was consulted and they felt that given her age/comorbidities 
that she should be treated with IV antibiotics x 2 weeks. First 
dose of CTX given via midline on ___. A TTE was obtained and 
showed no evidence of endocarditis. ID team recommended against 
___. There was no clear source for her Group B strep bacteremia, 
and we suspect that her initial GI symptoms may in fact have 
been result of sepsis from a primary Group B strep bacteremia, 
rather than the bacteremia having been the result of a GI 
process.

[] Complete 14-day total course of Ceftriaxone via midline; last 
day will be ___.
.
.
# Possible HFpEF (new diagnosis)
She did have an o2 requirement initially (___) which resolved 
with time and getting up to chair. CXR showed mild pulmonary 
vascular congestion.  TTE showed elevated PCWP and elevated E/e' 
without reduced LVEF, overall suggestive of HFpEF.  She has 
multiple risk factors for HFpEF.  The mild hypoxia resolved and 
aside from generalized non-pitting edema (of unclear chronicity) 
she did not have signs/symptoms concerning for decompensated CHF 
at the time of discharge.

[]Please check daily weights, consider initiation of loop 
diuretic if weight increasing or if patient develops other signs 
to suggest worsening CHF (worsening pitting edema in dependent 
areas, orthopnea, dry cough, SOB/DOE, etc.)
[]She has cardiology follow-up scheduled on ___
.
.

# Recurrent headaches - she reported that she has had recurrent 
headaches for months which she believes are worsening. During 
hospital stay, easily treated with tylenol. We recommended she 
discuss with her neurologist. 
.
.

# Idiopathyic axonal sensorimotor polyneuropathy - Continued 
gabapentin. Outpatient f/u per Neuro.
.
.
.
.
.
Time in care: greater than 30 minutes in discharge-related 
activities today.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. Bacitracin Ointment 1 Appl TP BID 
5. Bisacodyl ___ID:PRN constipation 
6. Docusate Sodium 100 mg PO BID 
7. Gabapentin 100 mg PO BID 
8. Multivitamins 1 TAB PO DAILY 
9. Ondansetron 4 mg PO Q6H:PRN nausea 
10. Polyethylene Glycol 17 g PO BID 
11. Sertraline 100 mg PO DAILY 
12. TraZODone 25 mg PO QHS:PRN insomnia 
13. LORazepam 0.5 mg PO DAILY:PRN anxiety 
14. melatonin 1 mg oral QHS:PRN 
15. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
16. nystatin 100,000 unit/gram topical BID 
17. Zinc Oxide Diaper Cream (dimethicone-ZnOx-vit A-D-aloe) ___ 
% topical DAILY:PRN 
18. Cyanocobalamin 1000 mcg PO DAILY 

 
Discharge Medications:
1.  CefTRIAXone 2 gm IV Q 24H 
RX *ceftriaxone in dextrose,iso-os 2 gram/50 mL 2 gm IV once a 
day Disp #*13 Intravenous Bag Refills:*0 
2.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 10 mg PO QPM  
5.  Bacitracin Ointment 1 Appl TP BID  
6.  Bisacodyl ___ID:PRN constipation  
7.  Cyanocobalamin 1000 mcg PO DAILY  
8.  Docusate Sodium 100 mg PO BID  
9.  Gabapentin 100 mg PO BID  
10.  Lactulose 30 mL PO DAILY:PRN constipation  
11.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
12.  melatonin 1 mg oral QHS:PRN  
13.  Multivitamins 1 TAB PO DAILY  
14.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
15.  nystatin 100,000 unit/gram topical BID  
16.  Ondansetron 4 mg PO Q6H:PRN nausea  
17.  Polyethylene Glycol 17 g PO BID  
18.  Sertraline 100 mg PO DAILY  
19.  TraZODone 25 mg PO QHS:PRN insomnia  
20.  Zinc Oxide Diaper Cream (dimethicone-ZnOx-vit A-D-aloe) 
___ % topical DAILY:PRN  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# Fever/abdominal pain/nausea/diarrhea
# Group B strep bacteremia w/ sepsis
# Pulmonary edema w/ mild hypoxia on ___ - possible HFpEF 
exacerbation
# Constipation (chronic)
# Headache (chronic)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
___, 

You were admitted with belly pain, nausea, vomiting. Luckily 
these symptoms improved quickly and you were able to begin 
eating.

Unfortunately a blood culture grew a bacteria for which we need 
to treat you with antibiotics for 2 weeks. 

During your hospital stay your headaches which you are having at 
home continued. We recommend you discuss more with your primary 
care doctor and neurologist. 

Best of luck!

Your ___ team
 
Followup Instructions:
___